US07919504B2
To a stirred mixture of 5-(quinazolin-6-yl)-1,3,4-thiadiazol-2-amine (0.132 g, 0.58 mmol) in DMF (5 mL) was added Boc2O (188 mg, 0.86 mmol) and commercially available N,N-dimethylpyridin-4-amine (4 mg, 0.029 mmol). The mixture was heated at 100° C. 15 hours. After cooling, the mixture was concentrated. The resulting residue was purified by flash column chromatography (eluting with a gradient of DCM to 5% MeOH in DCM) to provide tert-butyl 5-(quinazolin-6-yl)-1,3,4-thiadiazol-2-ylcarbamate (33 mg, 17%) as a yellow solid.

reactant | 5-(quinazolin-6-yl)-1,3,4-thiadiazol-2-amine | 0.58 mmol, 0.132 g | N1=CN=CC2=CC(=CC=C12)C1=NN=C(S1)N | C10H7N5S
reactant | Boc2O | 0.86 mmol, 188 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | N,N-dimethylpyridin-4-amine | 0.029 mmol, 4 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl 5-(quinazolin-6-yl)-1,3,4-thiadiazol-2-ylcarbamate | 33 mg, 17% | N1=CN=CC2=CC(=CC=C12)C1=NN=C(S1)NC(OC(C)(C)C)=O | C15H15N5O2S
